US05298652
To a suspension of 0.162 g (4.06 mmol) of 60% sodium hydride on oil in 10 ml of anhydrous DMF was added 0.75 g (3.87 mmol) of 4-hydroxy-alpha-oxobenzeneacetic acid ethyl ester. The reaction mixture was stirred at room temperature under argon for 15 minutes and then 1.4 g (4.06 mmol) of 12-phenoxydodecyl bromide in 20 ml of anhydrous DMF was added. The mixture was stirred and heated at 60° for 24 hours. The usual workup followed by chromatography on 45 g of silica gel gave alpha-oxo-4-[(12-phenoxydodecyl)oxy]benzeneacetic acid ethyl ester (83% yield, mp 58°-59°).

reactant | sodium hydride | 4.06 mmol, 0.162 g | [H-].[Na+]
reactant | 4-hydroxy-alpha-oxobenzeneacetic acid ethyl ester | 3.87 mmol, 0.75 g | C(C)OC(C(C1=CC=C(C=C1)O)=O)=O | C10H10O4
reactant | 12-phenoxydodecyl bromide | 4.06 mmol, 1.4 g | O(C1=CC=CC=C1)CCCCCCCCCCCCBr | C18H29BrO
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | alpha-oxo-4-[(12-phenoxydodecyl)oxy]benzeneacetic acid ethyl ester | 83% yield | C(C)OC(C(C1=CC=C(C=C1)OCCCCCCCCCCCCOC1=CC=CC=C1)=O)=O | C28H38O5
